Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of asthma, 
otherwise mostly healthy, who presents after syncopal episode 
while at work.

Patient works as a ___ at ___. She was loading books onto a 
cart during which time she started to feel weaker than usual. A 
few minutes later she sat down in her chair at her desk. She 
does not recall the next few minutes. She was told she 
complained of feeling lightheaded and unwell and then collapsed 
from her chair to the ground. She awoke a few seconds later on 
the ground.

She is unable to recall specific symptoms before the episode, 
but denies being aware of any chest pain, shortness of breath or 
palpitations in the immediate moments surrounding it. She had 
significant left ankle pain after the fall and she believes that 
her ankle twisted under her as she fell.

She reports palpitations while in church the day prior to 
admission. She says she was standing in church when she felt her 
heart beating very quickly along with pleuritic pain. She says 
she palpated her chest and found that it was tender at the site 
of pain so she attributed this to lifting heavy books earlier in 
the day. This pain resolved within a few minutes as did the 
palpitations.

ROS: Comprehensive 10-point ROS is otherwise negative.

ED course:
- VS: 98.0, 60, 125/94, 18, 100% on RA
- Labs: TnT <0.01, TSH 2.2, otherwise unremarkable
- EKG: NSR, RBBB, compared to prior from ___ the QRS is 
longer
- Meds: None
- Imaging: CXR - no acute process, ANKLE - L fibula fracture
 
Past Medical History:
- ADHD
- Osteopenia
- Asthma
- Dry eyes
 
Social History:
___
Family History:
Mother: ___ yo, HTN
Father: died at ___ yo from SBO, had CAD, CKD, prostate cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 97.9, BP 121/58, P 63, RR 18, O2 99% on RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no
increased work of breathing
GI: soft, non-tender, non-distended. No hepatosplenomegaly 
appreciated.
GU: No suprapubic tenderness
Extremities: L ankle swollen, medial aspect very tender to 
palpation, range of motion limited by pain
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

DISCHARGE PHYSICAL EXAM:
Vital Signs: 98.0 118/62 67 16 
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTA B 
GI: soft, BS present 
EXT: L leg in walker boot
NEURO: Alert, Oriented, face symmetric
PSYCH: calm, appropriate
 
Pertinent Results:
Admission Labs:
___ 12:06PM BLOOD WBC-8.2 RBC-4.20 Hgb-13.8 Hct-41.1 MCV-98 
MCH-32.9* MCHC-33.6 RDW-12.9 RDWSD-46.8* Plt ___
___ 12:06PM BLOOD Neuts-85.5* Lymphs-8.4* Monos-5.0 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-7.04* AbsLymp-0.69* 
AbsMono-0.41 AbsEos-0.02* AbsBaso-0.03
___ 12:06PM BLOOD Glucose-99 UreaN-19 Creat-0.8 Na-138 
K-5.0 Cl-101 HCO3-21* AnGap-21*

___ 09:48PM BLOOD D-Dimer-1849*
___ 12:06PM BLOOD TSH-2.2
___ 12:06PM BLOOD cTropnT-<0.01
___ 05:47PM BLOOD cTropnT-<0.01
___ 09:48PM BLOOD CK-MB-2 cTropnT-<0.01

Discharge Labs:
___ 09:40AM BLOOD WBC-5.8 RBC-4.34 Hgb-13.7 Hct-41.9 MCV-97 
MCH-31.6 MCHC-32.7 RDW-13.1 RDWSD-46.8* Plt ___
___ 09:40AM BLOOD Glucose-86 UreaN-13 Creat-0.7 Na-140 
K-4.2 Cl-103 HCO3-29 AnGap-12
___ 09:40AM BLOOD Calcium-9.8 Phos-3.7 Mg-2.0

ECG - Sinus bradycardia. Right axis deviation. Right 
bundle-branch block. Possible right ventricular hypertrophy. No 
previous tracing available for comparison. 

ECG - Sinus rhythm. Borderline right axis deviation. Right 
bundle-branch block. Possible left ventricular hypertrophy. 
Compared to the previous tracing of the same date, there is no 
significant change.  

L Ankle Films - IMPRESSION:  
Oblique fracture involving the lateral malleolus likely 
representing a Weber B injury without mortise disruption or 
significant displacement. 

CXR - IMPRESSION:  
COPD.  No acute cardiopulmonary process. 

L Tib/Fib Films - FINDINGS:  
There is an obliquely orientated Weber B type fracture of the 
left distal fibula extending to the level of the tibiofibular 
syndesmosis.  Minimal fracture fragment distraction.  No 
significant change in position with gravity stress view.  No new 
bony injury. 
IMPRESSION:  Weber B type fibular fracture. 

TTE - The left atrium and right atrium are normal in cavity 
size. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic arch is mildly dilated. The number of aortic valve 
leaflets cannot be determined. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 
IMPRESSION: Normal global and regional biventricular systolic 
function. Mild mitral regurgitation.  

CTA Chest - IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Limited evaluation of the left subclavian vein due to 
artifact.  Extensive collateral vessels in the left upper chest 
is suspicious for occlusion or severe stenosis of the left 
subclavian vein.  This can be further evaluated on ultrasound. 
3. Mild interlobular septal thickening in the left base may 
represent early volume overload. 

LUE US - IMPRESSION:  
No evidence of deep vein thrombosis in the left upper extremity. 
 The visualized left subclavian vein demonstrates normal color 
flow throughout. 

 
Brief Hospital Course:
___ y/o F with no significant PMHx, who was admitted following 
syncopal episode c/b L ankle frx.

# Syncope: She endorses several episodes of palpitations over 
the past few weeks; however, she does not recall the events 
surrounding this syncopal so is unsure whether she had 
experienced palpitations this time. No events on tele here. CTA 
(performed ___ elevated D-dimer) was negative for PE. Of note, 
she did have significant orthostatic symptoms while working with 
___, which improved after 1LNS. While this does argue to 
orthostasis as a possible etiology for her presentation, her 
syncopal episode as well as prior episodes of 
lightheadedness/palpitations occurred while she was sitting, 
making this less likely. Given normal TTE and no events on tele 
here, pt is medically stable for discharge home. Encouraged pt 
to adequately hydrate. Would consider ambulatory heart monitor 
to further evaluate for any arrhythmias, given reports of 
palpitations over the past few weeks.

# Left Distal Fibular Fracture: Likely ___ fall. Ortho 
evaluated. Recommended walker boot with f/u in 1 week. D/c'ed 
with walker and home ___.

# Subclavian Stenosis: Suggested by CTA but not seen on 
ultrasound.

# Asthma: Restarted home albuterol and Flovent.

TRANSITIONAL ISSUES:
- continue outpatient ambulatory cardiac monitoring, given 
reports of palpitations (no events on tele here)
- ortho f/u in 1 week

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Restasis 2 gtts Other BID 
2. Vitamin D ___ UNIT PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
5. Docusate Sodium 150 mg PO QHS 
6. Multivitamins 1 TAB PO DAILY 
7. Primrose Oil (eve prim-linoleic-gamolenic ac) 1,000 mg oral 
DAILY 
8. Glucos Chond Cplx Advanced (glucosam-chond-hrb 149-hyal ac) 
750 mg-100 mg- 125 mg-1.65 mg oral DAILY 
9. flaxseed oil 1,000 mg oral DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze 
2. Docusate Sodium 150 mg PO QHS 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Multivitamins 1 TAB PO DAILY 
5. flaxseed oil 1,000 mg oral DAILY 
6. Glucos Chond Cplx Advanced (glucosam-chond-hrb 149-hyal ac) 
750 mg-100 mg- 125 mg-1.65 mg oral DAILY 
7. Primrose Oil (eve prim-linoleic-gamolenic ac) 1,000 mg oral 
DAILY 
8. Restasis 2 gtts Other BID 
9. Vitamin D ___ UNIT PO DAILY 
10. Medical Equipment
Rolling Walker
Dx: Left Fibular Fracture
Prognosis: Good
Length of Need: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope
L Fibular Fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You presented to the hospital after an episode of passing out. 
You were placed on a heart monitor and had no concerning 
arrhythmias. You had an ultrasound of your heart which was 
unremarkable. You had a CAT scan of your chest which did not 
show any blood clot. You worked with physical therapy and were 
noted to be mildly dehydrated. This improved with IV fluids. It 
is important that you continue to hydrate well after you go 
home.

You were also found to have a fracture in your left ankle. You 
were fitted with a boot for this. You are being discharged home 
with a walker and home physical therapy.
 
Followup Instructions:
___